US07384963B2
N-(3-Aminobenzyl)-N′-ethylurea N-Ethyl-N′-(3-nitrobenzyl)urea (600 mg, 2.69 mmol) and palladium on carbon (5%, 50 mg) were suspended in ethanol (20 ml) and hydrogenated under 1 Atm. of hydrogen at room temperature for 1 h. The reaction was filtered through decolourising charcoal added and heated briefly to reflux. Filtered through celite and the filtrate reduced to dryness under vacuum to give N-(3aminobenzyl)-N′-ethylurea (490 mg). Rf; DCM/methanol (10:1) 0.27.

reactant | N-(3-Aminobenzyl)-N′-ethylurea N-Ethyl-N′-(3-nitrobenzyl)urea | 2.69 mmol, 600 mg | C(C)NC(=O)NCC1=CC(=CC=C1)[N+](=O)[O-].NC=1C=C(CNC(=O)NCC)C=CC1
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-(3aminobenzyl)-N′-ethylurea | 490 mg | NC=1C=C(CNC(=O)NCC)C=CC1 | C10H15N3O
